US09024027B2
To a solution of tert-butyl 2-(5-(aminomethyl)-1,3-dioxoisoindolin-2-yl)acetate hydrochloride (0.409 g, 1.252 mmol) in dry pyridine (10 ml) cooled to 0° C., methanesulfonyl chloride (0.117 ml, 1.502 mmol) was added. The reaction was warmed to room temperature and stirred overnight. Additional methanesulfonyl chloride (0.148 ml, 1.878 mmol) was added over 24 hours cooling at 0° C. and stirring at room temperature. The solvent was removed under vacuum and the residue was portioned between ethyl acetate and 1N HCl. The organic phase was washed with brine and dried over sodium sulfate. The solvent was evaporated to dryness affording tert-butyl 2-(5-(methylsulfonamidomethyl)-1,3-dioxoisoindolin-2-yl)acetate (0.461 g, 1.251 mmol, MS/ESI+ 390.9 [MNa]+). This crude was used in the following steps without purification.

reactant | tert-butyl 2-(5-(aminomethyl)-1,3-dioxoisoindolin-2-yl)acetate hydrochloride | 1.252 mmol, 0.409 g | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)CC(=O)OC(C)(C)C)=O
reactant | methanesulfonyl chloride | 1.502 mmol, 0.117 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 1.878 mmol, 0.148 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | tert-butyl 2-(5-(methylsulfonamidomethyl)-1,3-dioxoisoindolin-2-yl)acetate | 1.251 mmol, 0.461 g | CS(=O)(=O)NCC=1C=C2C(N(C(C2=CC1)=O)CC(=O)OC(C)(C)C)=O | C16H20N2O6S
